US09339503B2
2-[4-(4-Fluorophenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A6”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and 1-(4-fluorophenyl)piperazine (91.8 μl; 0.51 mmol) are suspended in isoamyl alcohol (1 ml), and the mixture is irradiated in the microwave (CEM Discover) at 150° C. for 2 h with stirring. The precipitated crystals are filtered off with suction, rinsed thoroughly with ethanol and diethyl ether and filtered off with suction. The crude product obtained in this way is rinsed again with hot ethanol and diethyl ether, filtered off with suction and dried in vacuo at 50° C.; yield: 86 mg (50%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | 1-(4-fluorophenyl)piperazine | 0.51 mmol, 91.8 μl | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(4-Fluorophenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C18H21FN4O
